2147-09-23 03:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: Patient
s code status was reversed to full code
   temporarily and he  was ablated yesterday.  The procedure was
   successful and he has been in a paced sinus rhythm since.  He is
   feeling well and his post cath check was unremarkable.
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-9-22**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-23**] 03:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 52 (52 - 140) bpm
   BP: 105/57(69) {83/53(66) - 122/80(85)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 78 kg (admission): 78 kg
             Total In:
                                                                  1,433 mL
                                                                    232 mL
   PO:
                                                                    560 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    873 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                     60 mL
   Urine:
                                                                  1,450 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GENERAL: WDWN ** in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of *** cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits or hematoma.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   206 K/uL
   12.9 g/dL
   123 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.5 mEq/L
   19 mg/dL
   101 mEq/L
   135 mEq/L
   37.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2147-9-22**]  08:25 PM
   WBC
   11.5
   Hct
   37.9
   Plt
   206
   Cr
   1.1
   Glucose
   123
   Other labs: Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure.
   .
   #. Rhythm - Pt with known VTach and s/p ICD firing, presented due to
   ICD firing and chest pain. Patient has stable VS and is in VT at
   120-130s. He was bolused with 450 mg of IV amiodarone in the ER and is
   currently on a gtt. He is currently DNR/DNI after undergoing a
   successful VT ablation yesterday for which his code status was changed
   to full code.
   - Stop lidocaine IV this AM as it is causing nausea.
   - Continue PO amiodarone for now
   - Keep ICD on
   .
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   -Consider restarting home ACEi and Lasix now that he is in sinus
   rhythm.
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggest mild cardiac injury after
   shock, but most likely he is not having ACS.
   .
   #. OA - pain was well controlled on Tylenol and oxycodone.
   .
   #. Anxiety - Continued on Ativan home-dose.
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked.
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-9-22**] 06:17 PM
   Prophylaxis:
   DVT: heaprin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code for ablation procedure, DNR / DNI following
   procedure
   Disposition:
   ------ Protected Section ------
   Attending
s Note
   I reviewed data.course overnoght and EP procedure.
   Pt much better.Examined Pt and agree with Dr.[**Last Name (STitle) **].s note
   Spent 40 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2147-9-23**] 09:48 ------

2147-09-24 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2147-9-23**]- Increased paced rate to 70.  To floor today.  Monitor for signs
   of fluid overload.  Mg was 6.2 this AM.  Most likely was a lab error.
   Patient seen and evaluated for signs hypermagnesium.  Re-checked Mg-
   came back to be 2.2
   Paged at [**Pager number 9333**] saying patient in V-tach with HR of 130s and SBP of 80s.
   Was just transferred to floor.  Contact[**Name (NI) **] [**Name2 (NI) **] and she recommended
   100mg lidocaine bolus and lidocaine gtt at 1mg/min.  Patient did not
   convert.  Cards fellow called.  Came and repaced patient's device.
   Converted back to paced rhythm with rate of 70s and SBP in 110s.
   Patient transferred back to CCU.  Upon arrival, went back into VT.
   Cards fellow again called.  Re-set VT detect from 140 to 115.
   Patient's daughter called again with no response.  Left message with
   call back number.  Was internally shocked back into paced rhythm.  HR
   in 70s.
   Agitated overnight around 3AM.  Lost IV access.  Tried multiple times
   to regain access but patient uncooperative (kicking, yelling,
   agitated).
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-9-23**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2147-9-23**] 05:00 PM
   Lorazepam (Ativan) - [**2147-9-24**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-24**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 71 (50 - 126) bpm
   BP: 104/63(79) {86/48(58) - 128/73(86)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 78.7 kg (admission): 78 kg
             Total In:
                                                                  1,284 mL
                                                                    417 mL
   PO:
                                                                    950 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    134 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                    700 mL
   Urine:
                                                                  2,860 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,576 mL
                                                                   -283 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: In moderate distress. Signs of AMS.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple. No LAD
   CARDIAC: Paced rhythm.  Regular rate.  normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.  PMI located in 5th intercostal space,
   midclavicular line.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   197 K/uL
   12.5 g/dL
   90 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.5 mEq/L
   18 mg/dL
   100 mEq/L
   133 mEq/L
   38.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2147-9-22**]  08:25 PM
                             [**2147-9-23**]  06:07 AM
   WBC
   11.5
   9.6
   Hct
   37.9
   38.9
   Plt
   206
   197
   Cr
   1.1
   1.0
   Glucose
   123
   90
   Other labs: PT / PTT / INR:13.9/28.8/1.2, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure.
   .
   #. Rhythm - Pt with known VTach and s/p ICD firing, presented due to
   ICD firing and chest pain. Patient has stable VS and is in VT at
   120-130s. He was bolused with 450 mg of IV amiodarone in the ER and is
   currently on a gtt. He is currently DNR/DNI after undergoing a
   successful VT ablation for which his code status was changed to full
   code.  Code status reversed after procedure.  Was stable until he
   developed VT overnight on [**9-23**].  Was repaced into sinus rhythm and
   transferred back to CCU.  Again went into VT.  VT detect re-set to 115
   from 140.  Patient received multiple shocks and has been in sinus
   rhythm since 2AM.  Lidocaine and amiodarone gtt started but patient
   became agitated and lost IV access.  Lidocaine had not worked well in
   the past for patient.
   -Currently on PO amiodarone- will continue PO and not the drip.
   - Lidocaine not working in past- will not restart at this time
   - Keep ICD on
   - receiving repeated ICD shocks, and transitioning to comfort care
   .
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggest mild cardiac injury after
   shock, but most likely he is not having ACS.
   .
   #. OA - pain was well controlled on Tylenol and oxycodone.
   .
   #. Anxiety - Continued on Ativan home-dose. Consider low dose mood
   stabilizer at night, if agitation continues.
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked.  Daughter
   will visit today- will discuss goals of care again.
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:
   VAP:
   Comments: Bowel- colace/senna
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Attendong.s Note.
   I reviewed overnight course.
   Is having recurrent VT requiring ICD shocks for each episode for
   termination.
   Need to clarify code  and ICD satus with Pt and Family.
   Spent 45 mins on case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2147-9-24**] 10:24 ------

2147-09-25 01:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - more confused/altered this AM (asking for his leg so he can go to the
   hospital)
   - given zydis SL (2.5 mg x 2)
   -  sister at bedside and pt doing well when family here (eating at side
   of bed).
   - at [**2138**] hrs, pt agitated/confused/trying to get out of bed --> given
   morphine with plan to give 5 mg zydis or 1 mg haldol if continues to be
   agitated.
   -Received shock at 0600 translator requested because pt complained of
   CP after shock characterized as sharp, [**11-25**] in severity,
   non-radiating, some nausea.  Pain resolved appx. 20 mins after even to
   [**3-28**], dull pain, non-radiating.
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-9-24**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-25**] 01:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 95 (70 - 120) bpm
   BP: 100/60(70) {96/35(55) - 130/89(95)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Wgt (current): 78.7 kg (admission): 78 kg
                  Total In:
                                                                    777 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                      0 mL
   Urine:
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -243 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   GENERAL: NAD.  Cooperative. In restraints
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple. No LAD. JVP to the jaw
   CARDIAC: Paced rhythm.  Regular rate.  normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.  PMI located in 5th intercostal space,
   midclavicular line.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bibasilar crackles
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ BKA
   Labs / Radiology
   197 K/uL
   12.5 g/dL
   90 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.5 mEq/L
   18 mg/dL
   100 mEq/L
   133 mEq/L
   38.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2147-9-22**]  08:25 PM
                             [**2147-9-23**]  06:07 AM
   WBC
   11.5
   9.6
   Hct
   37.9
   38.9
   Plt
   206
   197
   Cr
   1.1
   1.0
   Glucose
   123
   90
   Other labs: PT / PTT / INR:13.9/28.8/1.2, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 VENTRICULAR TACHYCARDIA, SUSTAINED
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure.
   .
   #. Rhythm - Pt with known VTach and s/p ICD firing, presented due to
   ICD firing and chest pain. Patient has stable VS and was in VT at
   120-130s. He was bolused with 450 mg of IV amiodarone in the ER and was
   on a gtt. He is currently DNR/DNI after undergoing a successful VT
   ablation for which his code status was changed to full code.  Code
   status reversed after procedure.  Was stable until he developed VT
   overnight on [**9-23**].  Was repaced into sinus rhythm and transferred back
   to CCU.  Again went into VT.  VT detect re-set to 115 from 140.
   Patient received multiple shocks and has been in sinus rhythm since
   2AM.  Lidocaine and amiodarone gtt started but patient became agitated
   and lost IV access.  Lidocaine had not worked well in the past for
   patient.
   - will discuss with Dr. [**Last Name (STitle) **] re: utility of repeat ablation
   -Currently on PO amiodarone- will continue PO and not the drip.
   - Lidocaine not working in past- will not restart at this time. Might
   also be contributing to his altered mental status.
   - Keep ICD on
   - receiving repeated ICD shocks, and transitioning to comfort care.
   Receiving morphine PRN for pain
   - extensive conversation with daughter (HCP) took place, where decision
   was made to keep ICD on, and instruction was provided that the three
   modalities of therapy for this irregular rhythm are
   medication/ICD/ablation (all of which he has had and extensively
   pursued).
   .
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggest mild cardiac injury after
   shock, but most likely he is not having ACS.
   .
   #. OA - pain was well controlled on Tylenol.  Will d/c opiates today
   secondary to altered mental status.
   .
   #. Anxiety - Discontinued ativan home-dose. Consider low dose mood
   stabilizer at night, if agitation continues.
   -Received Olanzapine sublingual 2.5mg  with good response.
   - If agitated, consider zydis again vs. haldol 1 mg
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked. Leave ICD
   on. Daughter will visit today- will discuss goals of care again.
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI / no external shocks
   Disposition: CCU for now
   ------ Protected Section ------
   Attending
s Note.
   Reviewed data and examined Pt.
   Agree with Dr. [**Last Name (STitle) 8445**]
s assessment and notes.
   Pt continues to improve.Obtain Hem consult
   Spent 45 mins on case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2147-9-26**] 11:38 ------

2147-09-26 04:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Underwent VT ablation yesterday.  EP fellow consented patient
   daughter.  [**Name (NI) **] was full code for the procedure only.  Elective
   intubation at 16:20.
   -Pt potassium at 2000hrs was 2.5, 3.2 when repeated. Repleted with
   40meq IV potassium and 2gm IV Mag.
   -Pt's ICD battery needs replacement after multiple shocks
   -Pt returned s/p ablation at 2100hrs was in sinus, but then reconverted
   to Vtach in the 120s-130s for several minutes upon returning to the
   CCU. He was shocked several times via ICD at 2100hrs and reverted to
   normal sinus paced rhythm.  V tach thought to be secondary to the
   dopamine used during procedure which he has yet to be weaned off at
   this point.  He is RV pacing only, pacer leads were checked and LV lead
   is not capturing.  Femoral sheath removed at 23:30, post-cath check
   this morning.  Left one femoral venous access intact since patient is
   getting propofol through peripheral and dopamine through femoral.  Will
   need to remove femoral access once dopamine is completely weaned off
   this AM, unable to wean dopamine overnight likely secondary to BP
   effect of propofol which is needed to keep the patient sedated on the
   vent as he is still intubated.  Will need to wean patient to extubate
   this AM. Patient's DNR/DNI status confirmed with daughter
   post-procedure.
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2147-9-25**] 04:05 PM
   Famotidine (Pepcid) - [**2147-9-25**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2147-9-25**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-26**] 04:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 75 (70 - 125) bpm
   BP: 90/53(62) {84/39(55) - 123/82(90)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 78.7 kg (admission): 78 kg
             Total In:
                                                                  2,614 mL
                                                                    174 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  2,404 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    390 mL
   Urine:
                                                                  1,660 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   PEEP: 5 cmH2O
   PS: 5cm H20
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   SpO2: 97%
   ABG: 7.40/43/106/28/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GENERAL: intubated on vent, sedated
   HEENT: NCAT. Sclera anicteric. PERRL,I. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  OG tube and endotrcheal tube in
   place. No ulcerations of the oral mucosa.
   NECK: Supple. No LAD. JVP to the jaw
   CARDIAC: Paced rhythm.  Regular rate.  normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.  PMI located in 5th intercostal space,
   midclavicular line.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTA anteriorly
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Post cath check at 6:50am Rt
   lower extremity- no bruits, indurations, or active bleeding over site.
   No mottling of the skin or toes. DP/PT 2+.  No signs of hematoma.
   -Upper extremities in wrist restraints.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ BKA
   Labs / Radiology
   172 K/uL
   11.1 g/dL
   194 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.2 mEq/L
   20 mg/dL
   101 mEq/L
   140 mEq/L
   34.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2147-9-22**]  08:25 PM
                             [**2147-9-23**]  06:07 AM
                             [**2147-9-25**]  06:05 PM
                             [**2147-9-25**]  07:06 PM
                             [**2147-9-25**]  10:37 PM
   WBC
   11.5
   9.6
   7.5
   Hct
   37.9
   38.9
   34.4
   Plt
   [**Telephone/Fax (3) 9375**]
   Cr
   1.1
   1.0
   0.8
   1.1
   TCO2
   28
   Glucose
   123
   90
   159
   194
   Other labs: PT / PTT / INR:13.6/27.6/1.2, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure x 2.
   .
   #. Rhythm - Pt with known VTach and s/p ICD firing, presented due to
   ICD firing and chest pain. Patient has stable VS and was in VT at
   120-130s. He was bolused with 450 mg of IV amiodarone in the ER and was
   on a gtt. He is currently DNR/DNI after undergoing a successful VT
   ablation for which his code status was changed to full code.  Code
   status reversed after procedure.  Was stable until he developed VT
   overnight on [**9-23**].  Was repaced into sinus rhythm and transferred back
   to CCU.  Again went into VT.  VT detect re-set to 115 from 140.
   Patient received multiple shocks and has been in sinus rhythm since
   2AM.  Lidocaine and amiodarone gtt started but patient became agitated
   and lost IV access.  Lidocaine had not worked well in the past for
   patient.
   - Dr. [**Last Name (STitle) **] repeated ablation on [**2147-9-25**]. Currently pt is paced and
   in sinus, however, it is felt that the RV lead may be triggering the
   Vtach and his pacer will be shut off today and his rhythm will be
   monitored.
   - Lidocaine not working in past- will not restart at this time. Might
   also be contributing to his altered mental status.
   - Keep ICD on
   - receiving repeated ICD shocks, and transitioning to comfort care.
   Due to  his multiple shocks ICD may need battery replacement.  Discuss
   with family how they would like to proceed.
   - extensive conversation with daughter (HCP) took place, where decision
   was made to keep ICD on, and instruction was provided that the three
   modalities of therapy for this irregular rhythm are
   medication/ICD/ablation (all of which he has had and extensively
   pursued).
   - D/C amiodarone and start verapamil today.
   - Add diltiazem IV if goes into Vtach
   - No plans to change battery at this time because it is still working
   and it would be an unnecessary stress at this time.
   Post-cath check at 0650hrs
   -Femoral sheath removed at 23:30, Left one femoral venous access intact
   since patient is getting propofol through peripheral and dopamine
   through femoral.  Will need to remove femoral access once dopamine is
   completely weaned off this AM
   -Rt lower extremity to bruits, indurations, or active bleeding over
   site. No mottling of the skin or toes. DP/PT 2+
   Respiratory --  Pt was intubated for the ablation.
   -Unable to extubate as originally planned at 0400hrs since pt was
   unable to be weaned off the dopamine.  Most likely secondary to the
   hypotensive effect of propofol.
   -Respiratory changed his ventilator setting to Pressure support with
   plans to extubate later this morning.
   .
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   -No signs of decompensation at the moment.  Monitor UOP since pt
   received a lot of fluids during his ablation.
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggest mild cardiac injury after
   shock, but most likely he is not having ACS.
   .
   #. OA - pain was well controlled on Tylenol.  Will d/c opiates today
   secondary to altered mental status.
   .
   #. Anxiety - Discontinued ativan home-dose. Consider low dose mood
   stabilizer at night, if agitation continues.
   -Received Olanzapine sublingual 2.5mg with good response two nights ago
   -Pt altered mental status and anxiety seem to be improving.  Currently
   on propofol while intubated.
   - If agitated, consider zydis again vs. haldol 1 mg
   FEN:
   -Pt was hypokalemic yesterday to 2.2 was repleated with 40mEq IV and
   2gm of Mg.  This morning
s potassium was 3.7 repleated 20mEq this AM.
   -Follow lytes
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked. Leave ICD
   on. Daughter will visit today- will discuss goals of care again.
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-9-25**] 03:03 PM
   Sheath - [**2147-9-25**] 09:17 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI- no external shocks
   Disposition:
   ------ Protected Section ------
   Attending
s Note
   I revbiewed overnight course and examined Pt.
   Agree with Dr.[**Last Name (STitle) 9234**]
s note.much improved and reverted to SR.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2147-9-26**] 11:40 ------

2147-09-27 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - no episodes of VT overnight
   - LV paced at 60
   - family wants battery/generator changed at some point
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2147-9-26**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2147-9-26**] 03:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-27**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 60 (35 - 71) bpm
   BP: 96/50(59) {80/38(56) - 126/69(83)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Wgt (current): 78.7 kg (admission): 78 kg
                  Total In:
                                                                  1,526 mL
                                                                    120 mL
   PO:
                                                                  1,120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    376 mL
   Blood products:
   Total out:
                                                                  1,751 mL
                                                                    480 mL
   Urine:
                                                                  1,751 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (380 - 491) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 8.6 L/min
   Physical Examination
   GENERAL: intubated on vent, sedated
   HEENT: NCAT. Sclera anicteric. PERRL,I. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  OG tube and endotrcheal tube in
   place. No ulcerations of the oral mucosa.
   NECK: Supple. No LAD. JVP to the jaw
   CARDIAC: Paced rhythm.  Regular rate.  normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.  PMI located in 5th intercostal space,
   midclavicular line.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTA anteriorly
   ABDOMEN: Soft, mild tenderness LLQ > RLQ, ND. No HSM or tenderness. No
   abdominial bruits.  [**Month (only) **] BS.
   EXTREMITIES: No c/c/e. No femoral bruits.  Post cath check at 6:50am Rt
   lower extremity- no bruits, indurations, or active bleeding over site.
   No mottling of the skin or toes. DP/PT 2+.  No signs of hematoma.
   -Upper extremities in wrist restraints.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ BKA
   Labs / Radiology
   199 K/uL
   12.2 g/dL
   91 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.2 mEq/L
   25 mg/dL
   96 mEq/L
   135 mEq/L
   37.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2147-9-22**]  08:25 PM
                             [**2147-9-23**]  06:07 AM
                             [**2147-9-25**]  06:05 PM
                             [**2147-9-25**]  07:06 PM
                             [**2147-9-25**]  10:37 PM
                             [**2147-9-26**]  04:35 AM
                             [**2147-9-27**]  04:01 AM
   WBC
   11.5
   9.6
   7.5
   9.4
   14.2
   Hct
   37.9
   38.9
   34.4
   38.8
   37.7
   Plt
   [**Telephone/Fax (3) 9410**]17
   199
   Cr
   1.1
   1.0
   0.8
   1.1
   1.0
   1.1
   TCO2
   28
   Glucose
   123
   90
   159
   194
   155
   91
   Other labs: PT / PTT / INR:13.6/34.9/1.2, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure x 2.
   .
   #. Rhythm - Pt with known VTach and s/p ICD firing, presented due to
   ICD firing and chest pain. Patient has stable VS and was in VT at
   120-130s. He was bolused with 450 mg of IV amiodarone in the ER and was
   on a gtt. He is currently DNR/DNI after undergoing a successful VT
   ablation for which his code status was changed to full code.  Code
   status reversed after procedure.  Was stable until he developed VT
   overnight on [**9-23**].  Was repaced into sinus rhythm and transferred back
   to CCU.  Again went into VT.  VT detect re-set to 115 from 140.
   Patient received multiple shocks and has been in sinus rhythm since
   2AM.  Lidocaine and amiodarone gtt started but patient became agitated
   and lost IV access.  Lidocaine had not worked well in the past for
   patient.
   - LV pacing at 60 currently.
   - now s/p ablation x 2
   - Dr. [**Last Name (STitle) **] repeated ablation on [**2147-9-25**]. Currently pt is paced and
   in sinus.
   - Lidocaine not working in past- will not restart at this time. Might
   also be contributing to his altered mental status.
   - Keep ICD on
   - family wants generator changed at some point
   - Due to  his multiple shocks ICD may need battery replacement.
   Discuss with family how they would like to proceed.
   - extensive conversation with daughter (HCP) took place, where decision
   was made to keep ICD on, and instruction was provided that the three
   modalities of therapy for this irregular rhythm are
   medication/ICD/ablation (all of which he has had and extensively
   pursued).
   - D/C amiodarone and started verapamil yesterday.
   - Add diltiazem IV if goes into Vtach
   - No plans to change battery at this time because it is still working
   and it would be an unnecessary stress at this time.
   Respiratory
 extubated, off sedation, off pressors.
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   -No signs of decompensation at the moment.  Monitor UOP since pt
   received a lot of fluids during his ablation.
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggest mild cardiac injury after
   shock, but most likely he is not having ACS.
   .
   #. OA - pain was well controlled on Tylenol.  Will d/c opiates today
   secondary to altered mental status.
   .
   #. Anxiety - Discontinued ativan home-dose. Consider low dose mood
   stabilizer at night, if agitation continues.
   -Received Olanzapine sublingual 2.5mg with good response two nights ago
   -Pt altered mental status and anxiety seem to be improving.  Currently
   on propofol while intubated.
   - If agitated, consider zydis again vs. haldol 1 mg
   FEN:
   -Pt was hypokalemic yesterday to 2.2 was repleated with 40mEq IV and
   2gm of Mg.  This morning
s potassium was 3.2, being repleted.
   -Follow lytes
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked. Leave ICD
   on. Daughter will visit today- will discuss goals of care again.
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-9-25**] 03:03 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:  off ventilator
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2147-09-28 02:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt c/o diffuse abd pain at midnight
   - With translator, he states that he has not had a BM in 5 days (seems
   as if he had diarrhea yesterday).
   - Reportedly tried to have BM twice today, without any movement.
   - His pain is sharp, constant, diffuse.
   - On exam, no rebound, diffusely tender, but soft.
   - Ordered AXR and Spoke with radiology - no perf or obstruction seen;
   redundant bowel loops in RUQ 4 cm in size (unclear if small bowel or
   colon).
   - lactate pending, pt made NPO
   This AM, still complaining of abdominal pain, about the same as last
   night, requesting an enema.
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-9-27**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-28**] 02:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 60 (60 - 98) bpm
   BP: 95/47(58) {81/32(34) - 105/79(82)} mmHg
   RR: 24 (8 - 28) insp/min
   SpO2: 90%
   Heart rhythm: AV Paced
   Wgt (current): 78.7 kg (admission): 78 kg
   Height: 70 Inch
                  Total In:
                                                                  2,630 mL
                  PO:
                                                                  2,580 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,320 mL
                                                                      0 mL
   Urine:
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,310 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   Physical Examination
   GENERAL: NAD.  Comfortable
   HEENT: NCAT. Sclera anicteric. PERRL,I. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  No ulcerations of the oral
   mucosa.
   NECK: Supple. No LAD. JVP to the jaw
   CARDIAC: Paced rhythm.  Regular rate.  normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.  PMI located in 5th intercostal space,
   midclavicular line.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB  anteriorly
   ABDOMEN: Extremely tender to palpation over night and this AM.  Soft,
   non-distended. No HSM or tenderness. No abdominial bruits.  Hyperactive
   BS auscultated, no peritoneal signs noted. Mild guarding.
   EXTREMITIES: s/p L BKA,  No c/c/e bilaterally. No femoral bruits.  Cath
   site- no bruits, indurations, or active bleeding over site. No mottling
   of the skin or toes. DP/PT 2+.  No signs of hematoma.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ BKA
   Labs / Radiology
   24.7 K/uL
   203 K/uL
   11.0g/dL
   122 mg/dL
   1.0 mg/dL
   25mEq/L
   4.0 mEq/L
   24 mg/dL
   95 mEq/L
   127mEq/L
   39.9 %
        [image002.jpg] Diff: 93.2 N, 0 bands
                             [**2147-9-22**]  08:25 PM
                             [**2147-9-23**]  06:07 AM
                             [**2147-9-25**]  06:05 PM
                             [**2147-9-25**]  07:06 PM
                             [**2147-9-25**]  10:37 PM
                             [**2147-9-26**]  04:35 AM
                             [**2147-9-27**]  04:01 AM
   WBC
   11.5
   9.6
   7.5
   9.4
   14.2
   Hct
   37.9
   38.9
   34.4
   38.8
   37.7
   Plt
   [**Telephone/Fax (3) 9410**]17
   199
   Cr
   1.1
   1.0
   0.8
   1.1
   1.0
   1.1
   TCO2
   28
   Glucose
   123
   90
   159
   194
   155
   91
   Other labs: PT / PTT / INR:14.2/35.4/1.2, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Total bili: 2.0 ALT: 19 AST: 14  Lactate: 1.3 Lipase: 42
   UA: Hazy urine, with small leuks, 9 WBC on micro, 1 RBC, nitrite
   negative
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DELIRIUM / CONFUSION
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 VENTRICULAR TACHYCARDIA, SUSTAINED
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure x 2 and
   with new onset leukocytosis and abdominal pain.
   .
   #. Rhythm - Pt with known VTach, presented due to ICD firing and chest
   pain, s/p VT ablation [**2147-9-25**], patient with improved rhythm, but still
   has occasional runs of NSVT at 120-130s. O/n, occasional episodes of
   Vtach which converted, without shocks or other intervention.
   - Off amio, off lido, continue CCB for triggered ecotopy.
   - LV pacing at 60 currently
   - RV pacing off.
   - Keep ICD on
   - Family wants generator changed at some point
   - Add diltiazem IV if goes into Vtach
   .
   #Leukocytosis with left shift/SIRS, differential diagnosis includes C.
   Diff (possible despite negative c. diff toxin assay x 1, given
   abdominal pain, diarrhea and rapidly rising WBC and test has a
   sensitivity of 60-90%. ), UTI (possible given cloudy urine, 9 WBCs and
   a few bacterial cells seen on UA with micro, diverticulitis, given age
   of patient and location of pain, possible but less likely, ischemic
   bowel disease, unlikely given normal lactate, pneumonia, possible as
   s/p intubation
   -F/u c. diff stool assay x 2 to rule out C. Diff
   -Start empiric flagyl 500 mg IV q8 and PO Vancomycin to cover for C.
   difficile.  Add IV cipro to cover for potential diverticulitis.
   -Foley pulled, condom catheter in place, repeat UA, F/u urine culture
   to rule out UTI, begin empiric cipro
   - F/u blood cultures
   -F/u CXR to rule out aspiration, pneumonia
   - start mIVF NS at 100 cc/hr
   - hold lasix and ACEi
   - trend lactates
   - CT abdomen/pelvis given guarding on physical exam
   - may need to increase rate of pacemaker to correlate with SIRS
   physiology
   - repeat urine cx
   .
   # Abdominal pain
 pt with diffuse abdominal pain/tenderness, but
   abdomen soft and without signs of rebound/guarding.  AXR ordered and no
   signs of obstruction or perforation; redundant bowel loops noted in RUQ
   with size 4 cm (unclear if small bowel or colon, as per wet read with
   radiology). Differential diagnosis includes C. Diff, ischemic disease,
   unlikely given negative lactate, diverticulitis, possible given
   patient
s age and location of pain, pancreatitis, unlikely given normal
   lipase, hepato-biliary disease, unlikely given normal LFTs, and
   decreasing bili, pyelonephritis, unlikely given afebrile and negative
   nitrites on UA, UTI causing suprapubic pain, possible given hazy urine
   and 9 WBCs on micro.
   - NPO
   - CT abdomen/pelvis since pt has guarding on exam
   - Will start flagyl 500 mg IV q8h to empiricially treat for C. Diff
   along with PO vanco for now
   - trend lactate
   - Start IV cipro as well to cover for possible diverticulitis
   .
   #Hyponatremia- Na this AM 126, yesterday was 135. Likely false result
   given patient did not demonstrate thirst yesterday, and did not have an
   excessive free water intake. The patient has been putting out an
   appropriate amount of urine, making SIADH or other cerebral salt
   wasting unlikely.
   -F/u repeat Na, f/u urine lytes
   .
   # Respiratory
 extubated, off sedation, off pressors and maintaining
   adequate O2 sat and pressure
   .
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   -No signs of decompensation at the moment.  Monitor UOP since pt
   received a lot of fluids during his ablation.
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggested  mild cardiac injury on
   presentation, resolved, likely did not have ACS.
   .
   #. OA - pain was well controlled on Tylenol.  No opiates given altered
   mental status history with opioid administration
   .
   #. Anxiety - Discontinued ativan home-dose. Consider low dose mood
   stabilizer at night, if agitation continues.
   -Pt altered mental status and anxiety seem to be improving.
   - If agitated, consider zydis  vs. haldol 1 mg
   .
   FEN:
   - Currently NPO
   -Continue to follow lytes and replete as necessary
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked. Leave ICD
   on
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-9-25**] 03:03 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU

2147-09-29 05:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Diffuse abdominal pain and guarding this AM. WBC count up to 24.7
   this AM. Blood cultures and urine culture sent.  Pt restarted
   empirically on Flagyl, Cipro, and PO Vanc. Given his sodium level all
   diuretics were held and he was started on 100ml/hr of NS continuous.
   He has been bolused with 250cc x3 this afternoon and his lungs remain
   clear to auscultation.  His blood pressure remained in the 80s systolic
   throughout the day despite the fluid and extra boluses and his
   pacemaker being reset to a HR=70.
   -CT abdomen with contrast shows segmental inflammation of the sigmoid
   suggestive of colitis.  UA prelim is growing 10,000-100,000 gram
   negative rods.  Empiric abx coverage appropriate for now pending
   sensitivities.
   -His WBC count decreased from 24.7 to 20.7 this afternoon and his
   sodium remained stable at 127.
   -Increased confusion throughout the day.  Yelling in Russian all night,
   ripping off his leads, undressing.  Given Zyprexa ODT 5mg x2. Russian
   translator paged at 23:50hr pt stated "he needs to go to [**Location (un) 9435**] for his
   Communist meeting."
   -At 0040hrs pts lungs CTA, BPs in the 100s.
   -At 3:45AM->Had 9 beat run of Vtach, did not get shocked.
   -At 4AM-> patient extremely agitated requiring 3 people to restrain
   him.  Pulled off clothes, leads, BP cuff, IV.  Given 3mg IM Lorazepam.
   SBP in the 120s before cuff got ripped off.
   IV replaced this AM
   Allergies:
   Morphine
   Nausea/Vomiting
   Mirtazapine
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   nightmares;
   Last dose of Antibiotics:
   Metronidazole - [**2147-9-28**] 08:30 AM
   Vancomycin - [**2147-9-28**] 03:00 PM
   Ciprofloxacin - [**2147-9-28**] 08:21 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2147-9-28**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2147-9-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-9-29**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 72 (60 - 73) bpm
   BP: 125/50(68) {80/31(44) - 125/59(84)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 78.4 kg (admission): 78 kg
   Height: 70 Inch
             Total In:
                                                                  3,650 mL
                                                                    397 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                  2,750 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,650 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD.  Comfortable
   HEENT: NCAT. Sclera anicteric. PERRL,I. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   CARDIAC: Paced rhythm.  Regular rate.  normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.  PMI located in 5th intercostal space,
   midclavicular line.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Left lower rales otherwise clear to
   auscultation.  No signs of fluid overload
   ABDOMEN: Mildly tender to palpation this morning.  Soft, non-distended.
   No HSM. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Cath site- no bruits,
   indurations, or active bleeding over site. No mottling of the skin or
   toes. DP/PT 2+.  No signs of hematoma or infection.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ BKA
   Labs / Radiology
   190 K/uL
   10.8 g/dL
   104 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.9 mEq/L
   21 mg/dL
   94 mEq/L
   127 mEq/L
   33.5 %
   20.7 K/uL
        [image002.jpg]
                             [**2147-9-22**]  08:25 PM
                             [**2147-9-23**]  06:07 AM
                             [**2147-9-25**]  06:05 PM
                             [**2147-9-25**]  07:06 PM
                             [**2147-9-25**]  10:37 PM
                             [**2147-9-26**]  04:35 AM
                             [**2147-9-27**]  04:01 AM
                             [**2147-9-28**]  01:57 AM
                             [**2147-9-28**]  10:00 AM
                             [**2147-9-28**]  02:55 PM
   WBC
   11.5
   9.6
   7.5
   9.4
   14.2
   24.7
   20.7
   Hct
   37.9
   38.9
   34.4
   38.8
   37.7
   33.9
   33.5
   Plt
   [**Telephone/Fax (3) 9438**]
   190
   Cr
   1.1
   1.0
   0.8
   1.1
   1.0
   1.1
   1.0
   1.0
   0.9
   TCO2
   28
   Glucose
   123
   90
   159
   194
   155
   91
   122
   104
   Other labs: PT / PTT / INR:14.2/35.4/1.2, ALT / AST:19/14, Alk Phos / T
   Bili:63/2.0, Amylase / Lipase:36/43, Differential-Neuts:91.9 %,
   Lymph:4.9 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known firstname 20**] [**Known lastname **] is a 86 yo Russian speaking man with h/o CAD s/p MI and
   CABG in [**2136**], chronic AFib with V-pacing, chronic systolic CHF with EF
   20%, recently discharged from CCU with ICD firing, now returns with
   recurrent VT on PO amiodarone, now s/p VT ablation procedure x 2.
   .
   #. Rhythm - Pt with known VTach and s/p ICD firing, presented due to
   ICD firing and chest pain. Patient has stable VS and was in VT at
   120-130s. He was bolused with 450 mg of IV amiodarone in the ER and was
   on a gtt. He is currently DNR/DNI after undergoing a successful VT
   ablation for which his code status was changed to full code.  Code
   status reversed after procedure.  Was stable until he developed VT
   overnight on [**9-23**].  Was repaced into sinus rhythm and transferred back
   to CCU.  Again went into VT.  VT detect re-set to 115 from 140.
   Patient received multiple shocks and has been in sinus rhythm since
   2AM.  Lidocaine and amiodarone gtt were started but patient became
   agitated and lost IV access.  Lidocaine had not worked well in the past
   for patient.
   - LV pacing at 70 currently
   - RV pacing off.
   - now s/p ablation x 2 (most recently [**2147-9-25**])
   - Currently pt is paced and in sinus; intrinsic conduction.
   - Keep ICD on
   - family wants generator changed at some point
   - On verapamil.
   - Add diltiazem IV if goes into Vtach
   .
   # Respiratory
 extubated, off sedation, off pressors.
   .
   #. Pump - No signs of CHF at this time. Pt with known chronic systolic
   heart failure with EF of 20%. We will continue his home medications:
   statin, ASA, and metoprolol.
   -No signs of decompensation at the moment.  Monitor UOP since pt
   received a lot of fluids during his ablation.
   -Gentle hydration with D5-NS at 50ml/hr today given low BP.  Will
   monitor for signs of fluid overload
   .
   # Leukocytosis- WBC down today (20.7 from 24).  No stool since
   yesterday AM.  Abdominal tenderness improved.  CT abd showed sigmoid
   colitis.  Unclear etiology.  Have not ruled out C.diff but it is
   unlikely given improving symptoms and decreasing white count.
   -Continue IV cipro
   - Will stop Flagyl and vanc this AM.
   - Urine sensitivities pending- will tailor abx therapy accordingly
   .
   #. CAD - Pt with known CAD s/p CABG. Chest pain free, other than his VT
   and shocks.  ASA, statin, BB were continued as above.  ACEI held as
   above, due to hypotension. Enzymes suggest mild cardiac injury after
   shock, but most likely he is not having ACS.
   .
   #. OA - pain was well controlled on Tylenol.  No opiates given altered
   mental status history with opioid administration
   .
   #. Anxiety - Discontinued ativan home-dose. Consider low dose mood
   stabilizer at night, if agitation continues.
   -Received Olanzapine sublingual 2.5mg with good response four nights
   ago
   -Pt altered mental status and anxiety seem to be improving.  Currently
   on propofol while intubated.
   -If agitated, consider zydis again vs. haldol 1 mg
   FEN:   Hyponatremic recently.  Lytes this AM show Na+ of 139 (after
   hydration yesterday).
   -continue to monitor lytes
   -Replete lytes as needed
   .
   #. Code - patient is DNR/DNI.  Not to be externally shocked. Leave ICD
   on
   .
   #. Prophy
 DVT: heparin SQ; No need for PPI; Colace/Senna.
   .
   #. Contact - Next of [**Doctor First Name **]: [**Last Name (LF) **],[**First Name3 (LF) **], Relationship: DAUGHTER, Phone:
   [**Telephone/Fax (1) 9232**] (home) and [**Telephone/Fax (1) 9287**] (cell).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-9-25**] 03:03 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: CCU for now
   ------ Protected Section ------
   Attending
s Note
   Reviewed data and examined Pt.
   Agree with Dr.[**Last Name (STitle) 9263**]
s note and Treatment plan.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2147-9-29**] 09:17 ------